US03994932
6.1 Grams of 5-nitro-1,4-naphthoquinone, 140 grams of methyl cellosolve 2.4 grams of 1,3-butadiene were introduced into an autoclave, heated up to 80° C. and reacted for 2.5 hours. After the reaction solution was allowed to cool, 0.06 gram of a 5% palladium on carbon catalyst and 6 grams of a 20% aqueous sodium hydroxide solution were added to the solution, into which was fed hydrogen at room temperature under normal pressure with agitation to absorb hydrogen in the 5-nitro-1,4-naphthoquinone in an amount of 2 mols per mol of the nitro compound. Then, the catalyst was removed by filtration and hydrochloric acid was added to the resultant filtrate for neutralization. From the thus neutralized solution was removed methyl cellosolve by distillation for concentration, followed by allowing to cool to precipitate crystals. The crystals were separated by filtration, washed with water and dried to obtain 5.8 grams of 1-aminoanthraquinone with a purity of 98.7%.

reactant | 5-nitro-1,4-naphthoquinone | [N+](=O)([O-])C1=C2C(C=CC(C2=CC=C1)=O)=O | C10H5NO4
reactant | 1,3-butadiene | C=CC=C | C4H6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methyl cellosolve | 140 grams | COCCO | C3H8O2
product | 1-aminoanthraquinone | 5.8 grams | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
